US06552067B2
Analogous to the procedure described for Example 1A, Step C, 5-[3-hydroxy-4-(3-phenoxy-phenyl)-butyl]-pyrrolidin-2-one (668.3 mg, 2.05 mmol) was reacted with tert-butyldimethylsilyl chloride (341 mg, 2.26 mmol). Purification by medium pressure chromatography (CH2Cl2 to 1% MeOH in CH2Cl2 to 2% MeOH in CH2Cl2) provided 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-(3-phenoxy-phenyl)-butyl]-pyrrolidin-2-one (673 mg). 1H NMR (CDCl3) δ7.32 (m, 2H), 7.22 (m, 1H), 7.09 (m, 1H), 6.99 (d, 2H), 6.89 (d, 1H), 6.83 (m, 2H), 3.85 (m, 1H), 3.58 (m, 1H), 2.76-2.62 (m, 2H), 2.32 (m, 2H), 2.23 (m, 1H), 1.73-1.34 (m, 5H), 0.84 (s, 9H), −0.03 (d, 3H), −0.16 (d, 3H); MS 440.7 (M+1).

reactant | 5-[3-hydroxy-4-(3-phenoxy-phenyl)-butyl]-pyrrolidin-2-one | 2.05 mmol, 668.3 mg | OC(CCC1CCC(N1)=O)CC1=CC(=CC=C1)OC1=CC=CC=C1 | C20H23NO3
reactant | tert-butyldimethylsilyl chloride | 2.26 mmol, 341 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
product | 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-(3-phenoxy-phenyl)-butyl]-pyrrolidin-2-one | 673 mg | C(C)(C)(C)[Si](OC(CCC1CCC(N1)=O)CC1=CC(=CC=C1)OC1=CC=CC=C1)(C)C | C26H37NO3Si
